US04504490
1-Methoxycarbonyl-3-[5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidophenyl]thiourea (formula I)
12 ml of methoxycarbonyl isothiocyanate are added dropwise, with stirring, to 18.7 g of 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidoaniline in 300 ml of dioxane, the temperature rising to about 40° C. The mixture is stirred for a further four hours without cooling, 60 ml of diisopropyl ether are added and the precipitate is filtered off with suction. After washing with diisopropyl ether, recrystallization is carried out from methanol/diisopropyl ether with the addition of active charcoal, melting point 190° C., decomposition.

reactant | methoxycarbonyl isothiocyanate | 12 ml | COC(=O)N=C=S | C3H3NO2S
reactant | 5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidoaniline | 18.7 g | FC(C=1C=C(C=CC1)S(=O)(=O)OC=1C=CC(=C(N)C1)NC(=O)N)(F)F | C14H12F3N3O4S
reactant | diisopropyl ether | 60 ml | C(C)(C)OC(C)C | C6H14O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 1-Methoxycarbonyl-3-[5-(3-trifluoromethylphenylsulfonyloxy)-2-ureidophenyl]thiourea | COC(=O)NC(=S)NC1=C(C=CC(=C1)OS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)NC(=O)N | C17H15F3N4O6S2
